US08624023B2
A reaction vessel was charged with (4aS,13aR)-8-bromo-10-[(phenylmethyl)oxy]-2,3,4a,5,13,13a-hexahydro-1H-pyrido[1,2-a]pyrrolo[1′,2′:3,4]imidazo[1,2-d]pyrazine-9,11-dione (1.4 kg), 2,4-difluorobenzylamine (705 g), Hunigs base (1.4 L), dppf (60 g) and DMSO (12 L). The mixture was degassed with high purity nitrogen 4 times. To this mixture was added palladium (II) trifluoroacetate (18 g) in DMSO (2 L). The mixture was again degassed 3 times with high purity nitrogen and then purged with CO 3 times and left under a 45 psi atmosphere of CO. The mixture was heated at 80° C. under 45 psi CO until the reaction appeared complete by HPLC (24 hrs). The mixture was cooled to rt and slowly transferred to an ice slurry of ammonium chloride. The mixture was filtered and washed with water and isopropanol. The residue was recrystallized from isopropanol to provide (4aS,13aR)—N-[(2,4-Difluorophenyl)methyl]-9,11-dioxo-10-[(phenylmethyl)oxy]-2,3,4a,5,9,11,13,13a-octahydro-1H-pyrido[1,2-a]pyrrolo[1′,2′:3,4]imidazo[1,2-d]pyrazine-8-carboxamide (952 g, 56%). Recrystallization of the mother liquor from isopropanol produced a second crop of crystals of the desired product in the amount of 327 g (19%).

reactant | (4aS,13aR)-8-bromo-10-[(phenylmethyl)oxy]-2,3,4a,5,13,13a-hexahydro-1H-pyrido[1,2-a]pyrrolo[1′,2′:3,4]imidazo[1,2-d]pyrazine-9,11-dione | 1.4 kg | BrC=1C(C(=C2N(C[C@@H]3N(C2=O)C[C@@H]2N3CCC2)C1)OCC1=CC=CC=C1)=O | C20H20BrN3O3
reactant | 2,4-difluorobenzylamine | 705 g | FC1=C(CN)C=CC(=C1)F | C7H7F2N
reactant | Hunigs base | 1.4 L | CCN(C(C)C)C(C)C | C8H19N
reactant | DMSO | 12 L | CS(=O)C | C2H6OS
catalyst | dppf | 60 g | C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.C1=CC=C(C=C1)P([C-]2C=CC=C2)C3=CC=CC=C3.[Fe+2]
product | (4aS,13aR)—N-[(2,4-Difluorophenyl)methyl]-9,11-dioxo-10-[(phenylmethyl)oxy]-2,3,4a,5,9,11,13,13a-octahydro-1H-pyrido[1,2-a]pyrrolo[1′,2′:3,4]imidazo[1,2-d]pyrazine-8-carboxamide | 952 g, 56% | FC1=C(C=CC(=C1)F)CNC(=O)C=1C(C(=C2N(C[C@@H]3N(C2=O)C[C@@H]2N3CCC2)C1)OCC1=CC=CC=C1)=O | C28H26F2N4O4
